US07645789B2
To a solution of 1-(4-hydroxy-phenyl)-cyclopropanecarboxylic methyl ester (7.0 g, 3.6 mmol) in acrylic tert-butyl ester (50 mL) was added Na (42 mg, 1.8 mmol) at room temperature. The mixture was heated at 110° C. for 1 h. After cooling to room temperature, the resulting mixture was quenched with water and extracted with EtOAc (100 mL×3). The combined organic extracts were dried over anhydrous Na2SO4 and evaporated under vacuum to give the crude product, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate 20:1) to give 1-[4-(2-tert-butoxycarbonyl-ethoxy)-phenyl]-cyclopropanecarboxylic methyl ester (6.3 g, 54%) and unreacted start material (3.0 g). 1H NMR (300 MHz, CDCl3) δ 7.24 (d, J=8.7 Hz, 2H), 6.84 (d, J=8.7 Hz, 2H), 4.20 (t, J=6.6 Hz, 2H), 3.62 (s, 3H), 2.69 (t, J=6.6 Hz, 2H), 1.59-1.56 (m, 2H), 1.47 (s, 9H), 1.17-1.42 (m, 2H).

reactant | 1-(4-hydroxy-phenyl)-cyclopropanecarboxylic methyl ester | 3.6 mmol, 7.0 g | COC(=O)C1(CC1)C1=CC=C(C=C1)O | C11H12O3
reactant | acrylic tert-butyl ester | 50 mL | C(C)(C)(C)OC(C=C)=O | C7H12O2
product | 1-[4-(2-tert-butoxycarbonyl-ethoxy)-phenyl]-cyclopropanecarboxylic methyl ester | 6.3 g, 54% | COC(=O)C1(CC1)C1=CC=C(C=C1)OCCC(=O)OC(C)(C)C | C18H24O5
